US06756497B1
Preparation of methyl 3-(2-isoxazolin-3-yl)-2-methyl-4-methylthiobenzoate
10 ml of degassed DMF was placed in a colorless, transparent glass container, and 420 mg of methyl mercaptan was blown in to dissolve. Then 600 mg of potassium carbonate and 500 mg of methyl 4,5-dichloro-3-(2-isoxazolin-3-yl)-2-methylbenzoate were added one by one. The resulting solution was stirred with a Teflon magnetic stirrer at room temperature with light shielded under the nitrogen atmosphere. After stirring it for an hour, it was confirmed by NMR that methyl 5-chloro-3-(2-isoxazolin-3-yl)-2-methyl-4-methylthiobenzoate was a major product. Succeedingly, the reaction system was stirred at 40° C. for 2 hours, while irradiating with white fluorescent light. The reaction solution was poured into ice-water, and extracted with ether-chloroform (5:1) and then with ether. The organic layers were washed with water, dried over sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified on silica gel column chromatography (elution with n-hexane/ethyl acetate=95/5) to give 424 mg of the title compound as white crystals. Melting point: 109-111° C.

reactant | methyl mercaptan | 420 mg | CS | CH4S
reactant | potassium carbonate | 600 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4,5-dichloro-3-(2-isoxazolin-3-yl)-2-methylbenzoate | 500 mg | ClC1=C(C(=C(C(=O)OC)C=C1Cl)C)C1=NOCC1 | C12H11Cl2NO3
reactant | methyl 5-chloro-3-(2-isoxazolin-3-yl)-2-methyl-4-methylthiobenzoate | ClC=1C(=C(C(=C(C(=S)OC)C1)C)C1=NOCC1)C | C13H14ClNO2S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 3-(2-isoxazolin-3-yl)-2-methyl-4-methylthiobenzoate | 424 mg | O1N=C(CC1)C=1C(=C(C(=S)OC)C=CC1C)C | C13H15NO2S
